US07576215B2
3-BENZYL-4-{3-[(1-METHYL-1H-PYRROL-2-YL)METHOXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLINE
The title compound was prepared from 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol and (1-methyl-1H-pyrrol-2-yl)-methanol according to the procedure of Example 69. MS (ESI) m/z 473.

reactant | 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO
reactant | (1-methyl-1H-pyrrol-2-yl)-methanol | CN1C(=CC=C1)CO | C6H9NO
product | 3-BENZYL-4-{3-[(1-METHYL-1H-PYRROL-2-YL)METHOXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)OCC=1N(C=CC1)C)C(F)(F)F | C29H23F3N2O
